US07544812B2
2-(2-Butyl-4-{3-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-propyl}-phenoxy)-2-methyl-propionic acid ethyl ester
The titled compound is prepared, according to the procedure of Example 3, Step B, using 2-(2-Iodo-4-{3-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-propyl}-phenoxy)-2-methyl-propionic acid ethyl ester (0.270 g, 0.430 mmole) and n-butyl boronic acid (0.218 g, 0.215 mmole) to produce an oil (0.115 g, 48%). Mass [EI+] 563 (M+H)+.

reactant | 2-(2-Iodo-4-{3-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-propyl}-phenoxy)-2-methyl-propionic acid ethyl ester | 0.430 mmole, 0.270 g | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)CCCC1N(C(N(C1)CC1=CC=C(C=C1)C(F)(F)F)=O)C)I)=O | C27H32F3IN2O4
reactant | n-butyl boronic acid | 0.215 mmole, 0.218 g | C(CCC)B(O)O | C4H11BO2
product | 2-(2-Butyl-4-{3-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-propyl}-phenoxy)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)CCCC1N(C(N(C1)CC1=CC=C(C=C1)C(F)(F)F)=O)C)CCCC)=O | C31H41F3N2O4
